US05665718
3.76 g (10 mmol) of (S)-8-chloro-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one were stirred at room temperature overnight with 5 g (58 mmol) of piperidine and 25 ml of N,N-dimethylformamide. By evaporation of the reaction mixture and chromatography of the residue on silica gel while eluting with ethyl acetate/methanol 9/1 there were obtained 4.1 g (96%) of (S)-8-chloro-1-[5-(piperidin-1-yl)methyl-1,2,4-oxadiazol-3-yl]-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one of m.p. 177°-179°, which was converted into the hydrochloride.

reactant | (S)-8-chloro-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 10 mmol, 3.76 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NOC(=N3)CCl)CC1)=O | C16H11Cl2N5O2
reactant | piperidine | 58 mmol, 5 g | N1CCCCC1 | C5H11N
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | (S)-8-chloro-1-[5-(piperidin-1-yl)methyl-1,2,4-oxadiazol-3-yl]-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 4.1 g, 96% | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NOC(=N3)CN3CCCCC3)CC1)=O | C21H21ClN6O2
